US07199243B2
5-iodo-2-methyl anisole (9.60 g, 38.70 mmol) and diethyl-(3-pyridyl)borane (5.70 g, 38.70 mmol) were dissolved in 60 mL tetrahydrofuran in a 250 mL round bottom flask equipped with a magnetic stirrer. Sodium carbonate (8.20 g, 77.40 mmol) and 30 mL water were added followed by tetrakis(triphenylphosphine)palladium(0) (0.90 g, 0.77 mmol) and 15 mL ethanol. The mixture was heated at reflux for 24 h under nitrogen then cooled to ambient temperature. The mixture was diluted with 200 mL water and extracted with diethyl ether (2×200 mL). The organic phases were combined and extracted with 1N HCl (3×150 mL). The acidic extractions were combined and made basic with 5N aqueous sodium hydroxide. This basic layer was extracted with diethyl ether (3×150 mL) and the extracts were combined and dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to yield 7.71 g (99%) of 2-methyl-5-(3-pyridyl)-anisole as a brown oil.

reactant | 5-iodo-2-methyl anisole | 38.70 mmol, 9.60 g | IC=1C=CC(=C(C1)OC)C | C8H9IO
reactant | diethyl-(3-pyridyl)borane | 38.70 mmol, 5.70 g | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | Sodium carbonate | 77.40 mmol, 8.20 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 15 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.77 mmol, 0.90 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 30 mL | O | H2O
product | 2-methyl-5-(3-pyridyl)-anisole | 7.71 g, 99% | CC1=C(C=C(C=C1)C=1C=NC=CC1)OC | C13H13NO
